US09233946B2
4-Bromo-2-fluoro-N-[3-(1H-tetrazol-5-yl)phenyl]benzenesulfonamide
The product was synthesized according to General Procedure 1, described in Example 1, starting with 4-bromo-2-fluorobenzene sulfonyl chloride (17.8 mg, 0.055 mmol) and 5-(3-aminophenyl)tetrazole (8 mg, 0.05 mmol) affording 10.4 mg (52%) of the title compound. MS (ESI+) calcd for C13H9BrFN5O2S 396.964436, found 396.963956.

reactant | 4-bromo-2-fluorobenzene sulfonyl chloride | 0.055 mmol, 17.8 mg | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
reactant | 5-(3-aminophenyl)tetrazole | 0.05 mmol, 8 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | 4-Bromo-2-fluoro-N-[3-(1H-tetrazol-5-yl)phenyl]benzenesulfonamide | 10.4 mg, 52% | BrC1=CC(=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)C1=NN=NN1)F | C13H9BrFN5O2S
